US08735384B2
A solution of 2-bromo-1-iodo-3-methylbenzene (200 mg, 0.67 mmol), 4,4,5,5-tetramethyl-2-(3-(trifluoromethyl)phenyl)-1,3,2-dioxaborolane (220 mg, 0.81 mmol), sodium carbonate (214 mg, 2.02 mmol) and tetrakis(triphenylphosphine) palladium (38.9 mg, 0.034 mmol) in toluene (2.0 mL)/EtOH (1.2 mL)/Water (0.2 mL) was heated in an oil bath at 80° C. overnight. The reaction was concentrated and the resultant residue purified by column chromatography (100% Hexanes) to yield 2-bromo-3-methyl-3′-(trifluoromethyl)biphenyl.

reactant | 2-bromo-1-iodo-3-methylbenzene | 0.67 mmol, 200 mg | BrC1=C(C=CC=C1C)I | C7H6BrI
reactant | 4,4,5,5-tetramethyl-2-(3-(trifluoromethyl)phenyl)-1,3,2-dioxaborolane | 0.81 mmol, 220 mg | CC1(OB(OC1(C)C)C1=CC(=CC=C1)C(F)(F)F)C | C13H16BF3O2
reactant | sodium carbonate | 2.02 mmol, 214 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOH | 1.2 mL | CCO | C2H6O
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 0.034 mmol, 38.9 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | Water | 0.2 mL | O | H2O
product | 2-bromo-3-methyl-3′-(trifluoromethyl)biphenyl | BrC1=C(C=CC=C1C)C1=CC(=CC=C1)C(F)(F)F | C14H10BrF3
